US07470709B2
Step 2: 3-(1H-Benzoimidazol-2-yl)-4-hydroxy-1H-[1,7]naphthyridin-2-one
3-[2-(Methoxycarbonyl)acetylamino]pyridine-4-carboxylic acid (1.1 equivalents) was combined with 1,2-phenylenediamine (1.0 equivalent) and heated at 150° C. for 3 hours. The crude product was purified by reversed-phase HPLC (DMSO/5% TFA). LC/MS m/z 279.3 (MH+), Rt 1.73 minutes.

reactant | 3-[2-(Methoxycarbonyl)acetylamino]pyridine-4-carboxylic acid | 1.1 equivalents | COC(=O)CC(=O)NC=1C=NC=CC1C(=O)O | C10H10N2O5
reactant | 1,2-phenylenediamine | 1.0 equivalent | C1(=C(C=CC=C1)N)N | C6H8N2
product | 3-(1H-Benzoimidazol-2-yl)-4-hydroxy-1H-[1,7]naphthyridin-2-one | N1C(=NC2=C1C=CC=C2)C=2C(NC1=CN=CC=C1C2O)=O | C15H10N4O2
